US07915267B2
ethyl 6-cyano-4-oxo-3,4-dihydroquinazoline-2-carboxylate
A suspension of ethyl 6-iodo-4-oxo-3,4-dihydroquinazoline-2-carboxylate (2.00 g, 5.81 mmol), zinc cyanide (375 mg, 3.19 mmol) and tetrakis(triphenylphosphine)palladium (336 mg, 0.29 mmol) in DMF (10 mL) was stirred at 80° C. for 5 hr under argon atmosphere. After cooling to room temperature, ethyl acetate was added to the reaction mixture. The precipitated solid was collected by filtration, washed with ethyl acetate, diisopropyl ether and water, dried over diphosphorus pentaoxide under reduced pressure to give the title compound as a pale-yellow powder (965 mg, 68%).

reactant | ethyl 6-iodo-4-oxo-3,4-dihydroquinazoline-2-carboxylate | 5.81 mmol, 2.00 g | IC=1C=C2C(NC(=NC2=CC1)C(=O)OCC)=O | C11H9IN2O3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | zinc cyanide | 3.19 mmol, 375 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium | 0.29 mmol, 336 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | ethyl 6-cyano-4-oxo-3,4-dihydroquinazoline-2-carboxylate | 965 mg, 68% | C(#N)C=1C=C2C(NC(=NC2=CC1)C(=O)OCC)=O | C12H9N3O3
